US06063782
Methyl 3-formyl-4,5-dimethyl-1-(2-methyl-2-propenyl)pyrrole-2-carboxylate
The title compound was prepared as a pale yellow oil in 86.2% yeild in a similar procedure to that described in Referential Example 9 by using but using methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate and 3-chloro-2-methyl-1-propene.

reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | 3-chloro-2-methyl-1-propene | ClCC(=C)C | C4H7Cl
product | Methyl 3-formyl-4,5-dimethyl-1-(2-methyl-2-propenyl)pyrrole-2-carboxylate | C(=O)C1=C(N(C(=C1C)C)CC(=C)C)C(=O)OC | C13H17NO3
